US05763437
To a mixture of 3-amino acrolein (4.52 g) and acetylacetone (7.64 g) was added catalytic amount of ammonium acetate. The mixture was heated for 19 hours at ca. 110° C., After cooling to room temperature, the mixture was poured into 100 ml of isopropyl ether and dried over magnesium sulfate. The resultant mixture was filtered off by suction in vacuo to remove an insoluble material and the filtrate was concentrated in vacuo. The crude compound was purified by column chromatography on silica gel with chloroform to give 3-acetyl-2-methylpyridine (3.58 g) as a yellow oil.

reactant | 3-amino acrolein | 4.52 g | NC=CC=O | C3H5NO
reactant | acetylacetone | 7.64 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
solvent | isopropyl ether | 100 ml | C(C)(C)OC(C)C | C6H14O
product | 3-acetyl-2-methylpyridine | 3.58 g | C(C)(=O)C=1C(=NC=CC1)C | C8H9NO
